US05446208
A 500 ml capacity autoclave was charged with 30 g (0.13 mol) of 6-t-butyl-2-ethyl-1,4-dioxaspiro[4.5]decane which has been prepared from 2-t-butylcyclohexanone and 1,2-butanediol, 150 g of isopropanol and 0.3 g of a catalyst of 5% palladium supported on active carbon (pH=7.6). The reaction was carried out under a hydrogen pressure of 70 kg/cm2 and at a temperature of 190° C. for 20 hours until completion of the absorption of hydrogen. After the reaction, the catalyst was removed by filtration and the resulting filtrate was subjected to distillation to obtain 24.2 g of 1-(2-t-butylcyclohexyloxy)-2-butanol (b.p.=122° to123° C./5 mmHg; yield=80%; cis:trans=66:34).

reactant | 6-t-butyl-2-ethyl-1,4-dioxaspiro[4.5]decane | 0.13 mol, 30 g | C(C)(C)(C)C1C2(OCC(O2)CC)CCCC1 | C14H26O2
reactant | 2-t-butylcyclohexanone | C(C)(C)(C)C1C(CCCC1)=O | C10H18O
reactant | 1,2-butanediol | C(C(CC)O)O | C4H10O2
catalyst | palladium | [Pd] | Pd
solvent | isopropanol | 150 g | C(C)(C)O | C3H8O
product | 1-(2-t-butylcyclohexyloxy)-2-butanol | 24.2 g, yield=80% | C(C)(C)(C)C1C(CCCC1)OCC(CC)O | C14H28O2
